US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1,4-dimethyl-4,5-dihydro-1H-pyrazole-3-carboxamide
A mixture of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (300 mg, 0.91 mmol), N-(5-hydroxy-2-methylphenyl)-1,4-dimethyl-4,5-dihydro-1H-pyrazole-3-carboxamide (290 mg, 1.2 mmol), cesium carbonate (600 mg, 1.8 mmol) and dimethyl sulfoxide (2 mL) was stirred at 100° C. for 6 hr. Ethyl acetate/tetrahydrofuran and water were added to the reaction mixture, and the aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×4). Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=40/60→100/0) to give the title compound (300 mg, 73%) as a white solid.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 0.91 mmol, 300 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | N-(5-hydroxy-2-methylphenyl)-1,4-dimethyl-4,5-dihydro-1H-pyrazole-3-carboxamide | 1.2 mmol, 290 mg | OC=1C=CC(=C(C1)NC(=O)C1=NN(CC1C)C)C | C13H17N3O2
reactant | cesium carbonate | 1.8 mmol, 600 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | Ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1,4-dimethyl-4,5-dihydro-1H-pyrazole-3-carboxamide | 300 mg, 73% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=NN(CC2C)C)C)C1 | C23H25N7O3
